*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*																*
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating			*
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.												*
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                               *
*****************************************************************
 
.SUBCKT BD139 1 2 3

RB 2 5 1E-06
RC 1 4 1E-06
RE 3 6 1E-06

Q1 4 5 6 Q
 
.model BD139 NPN(Is = 0.271E-16 Bf  = 204.072 Vaf = 158.022 Ikf = 5.018 Ise = 0.137E-17 Ne  = 1.712 Br  = 1.127 Var = 10.749 Ikr = 0.435 Isc = 0.128E-17 Nc = 1.046 Nk = 0.207 Rb = 0.571 Rbm = 0.101E-02 Nf = 0.982 Re = 0.259E-01 Rc = 0.413E-01 Qco = 0.873E-10 Rco = 4.999 Vo = 6.291 Gamma = 0.704E-10 Cjc = 0.361E-10 Vjc = 0.776 Mjc = 0.409 Cje = 0.102E-10 Vje = 0.745 Mje = 0.404 Fc = 0.503 Tr = 0.118E-06 Tf = 0.296E-08 Itf = 0.229 Vtf = 23.728 Xtf = 0.569)
 
* END OF MODELLING

